US05086055
5-[2-[4-(3-Fluorophenyl)-1-Piperazinyl]Ethyl]-3-Methyl-2-Oxazolidinone
A mixture of 8.0 g (0.044 mol) of 1-(3-fluorophenyl)piperazine, 8.0 g (0.049 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 18.7 g (0.176 mol) of anhydrous sodium carbonate, and 0.3 g (0.002 mol) of potassium iodide in 250 mL of 1-butanol was heated at reflux for 16 h. The mixture was concentrated under reduced pressure and the residue partitioned between 300 mL of benzene and 300 mL of water. The benzene layer was washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a light-yellow solid. The solid was recrystallized from benzene-petroleum ether (30°-60° C.) to yield 9.5 g (70%) of white soldi, mp 92°-93° C.

reactant | 1-(3-fluorophenyl)piperazine | 0.044 mol, 8.0 g | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.049 mol, 8.0 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.176 mol, 18.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mol, 0.3 g | [I-].[K+]
solvent | 1-butanol | 250 mL | C(CCC)O | C4H10O
product | 5-[2-[4-(3-Fluorophenyl)-1-Piperazinyl]Ethyl]-3-Methyl-2-Oxazolidinone | FC=1C=C(C=CC1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C16H22FN3O2
